US04523030
1000 ml of a 1-molar solution of boron tribromide in dichloromethane are poured over 19.5 g of 5-methoxybenzocyclobutene-1-carboxylic acid methyl ester and the whole is heated at reflux for 6 hours. The whole is concentrated to dryness by evaporation and extracted by shaking with a mixture of 2000 ml of dichloromethane and 1000 ml of water and the organic phase is separated off, washed with water, dried over magnesium sulphate and concentrated to dryness by evaporation. 5-hydroxybenzocyclobutene-1-carboxylic acid methyl ester is obtained in the form of white crystals having a melting point of 108°-109° (from ether/hexane).

reactant | boron tribromide | B(Br)(Br)Br | BBr3
reactant | 5-methoxybenzocyclobutene-1-carboxylic acid methyl ester | 19.5 g | COC(=O)C1=CC2=C1C=C(C=C2)OC | C11H10O3
solvent | dichloromethane | ClCCl | CH2Cl2
product | 5-hydroxybenzocyclobutene-1-carboxylic acid methyl ester | COC(=O)C1=CC2=C1C=C(C=C2)O | C10H8O3
